Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Penicillins / aspirin / citalopram / codeine / NSAIDS 
(Non-Steroidal Anti-Inflammatory Drug) / Sulfa (Sulfonamide 
Antibiotics) / tetracycline / theophylline / trimethoprim
 
Attending: ___.
 
Chief Complaint:
HIATAL HERNIA
 
Major Surgical or Invasive Procedure:
___  EGD; HERNIORRHAPHY HIATAL LAPAROSCOPIC W/ 
FUNDOPLICATION 

 
History of Present Illness:
Ms ___ is a ___ with known hiatal
hernia who presented with reflux, heartburn, and mid abd pain
after eating certain foods. She was evaluated by Dr ___
___ and dietary modifications were recommended before 
surgical
management. She presents for second opinion to discuss pros and
cons of surgery.

Today she reports that her symptoms started in ___ with 
several-month history of postprandial burning and reflux and
regurgitation, thought sx were related to stress. EGD showed
large hiatal hernia and a wide lower esophageal ring, but no
___ or microscopic esophagitis.H.Pylori negative. She was
started on Nexium with effect but this past ___ symptoms
returned including diarrhea, abdominal cramping, supraumbilical
pain  with trigger foods but much improved with dietary
restrictions. Her symptoms have  been managed with dietary
modifications and by taking Nexium 40  mg BID and Ranitidine 300
mg daily. She has limited her diet to only plain chicken/
fish,fruit and certain vegetables and has avoided  butter or any
dairy products.  Denies abdominal bloating, early satiety,
vomiting, acid regurgitation, heartburn, reflux, dysphagia or
odynophagia. She has a 18# weight loss in 9 months.  She has hx
of Asthma, no recent exacerbation, well controlled on Ventolin
and Advair, no shortness of breath.
 
Past Medical History:
1.  Asthma.

2.  High cholesterol.

3.  Osteopenia/osteoporosis.

4.  Low back pain.

5.  Osteoarthritis.

6.  Depression.

7.  Hiatal hernia and GERD.

8.  Fatty liver.

9.  Adenomatous polyps, due again in ___.

10.  Right bundle-branch block.

11.  Chronic headaches.

12.  Cognitive impairment.

13.  TAHBSO.

14.  Cataracts.

15.  High cholesterol.

16.  Asthma.

17.  Carpal tunnel.

18. SLE
 
Social History:
___
Family History:
Mother: breast cancer
 
Physical Exam:
VSS
Gen: NAD, AO X3
Lungs: Clear
Heart: RRR
Abd: soft, NT, ND
 
Pertinent Results:
___ 01:00PM BLOOD WBC-9.4 RBC-3.88* Hgb-11.4 Hct-35.2 
MCV-91 MCH-29.4 MCHC-32.4 RDW-12.4 RDWSD-41.1 Plt ___
___ 01:00PM BLOOD Glucose-74 UreaN-8 Creat-0.7 Na-139 K-3.4 
Cl-103 HCO3-26 AnGap-10
___ 01:00PM BLOOD Calcium-7.5* Phos-2.7 Mg-1.5*
___ 01:00PM BLOOD Calcium-7.5* Phos-2.7 Mg-1.5*
 
Brief Hospital Course:
Ms. ___ presented to ___ holding at ___ on ___ for 
hiatal hernia repair ___ fundoplication. She tolerated the 
procedure well without complications (Please see operative note 
for further details). After a brief and uneventful stay in the 
PACU, the patient was transferred to the floor for further 
post-operative management.  
 Neuro: Pain was well controlled on oxycodone and Tylenol. 
 CV: Vital signs were routinely monitored during the patient's 
length of stay. 
 Pulm: The patient was encouraged to ambulate, sit and get out 
of bed, use the incentive spirometer, and had oxygen saturation 
levels monitored as indicated. 
 GI: The patient was initially kept NPO after the procedure. The 
patient was later advanced to and tolerated a soft regular diet 
at time of discharge.  
 GU: Urine output was monitored as indicated. At time of 
discharge, the patient was voiding without difficulty.  
 ID: The patient's vital signs were monitored for signs of 
infection and fever, of which there were none.  
 Heme: The patient had blood levels checked post operatively 
during the hospital course to monitor for signs of bleeding. The 
patient had vital signs, including heart rate and blood 
pressure, monitored throughout the hospital stay.  
 On ___, the patient was discharged home. At discharge, she 
had no problems with her breathing, she was tolerating a regular 
diet, passing flatus, voiding, and ambulating independently. She 
will follow-up in the clinic in ___ weeks. This information was 
communicated to the patient directly prior to discharge.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. terbinafine HCl 250 mg oral daily 
2. Diazepam 2.5 mg PO QHS:PRN insomnia 
3. Alendronate Sodium 70 mg PO QWEEKLY 
4. Ranitidine 300 mg PO DAILY 
5. esomeprazole magnesium 40 mg oral BID 
6. Cetirizine 10 mg PO DAILY 
7. Vitamin D ___ UNIT PO DAILY 
8. Albuterol Inhaler Dose is Unknown  IH Frequency is Unknown 
9. Fluticasone-Salmeterol Diskus (100/50) Dose is Unknown  IH 
Frequency is Unknown 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 500 mg 2 tablet(s) by mouth Q6H:PRN Disp #*50 
Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0 
3.  Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron HCl 4 mg 1 tablet(s) by mouth Q8H:PRN Disp #*60 
Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 capsule(s) by mouth Q4:PRN Disp #*20 
Capsule Refills:*0 
5.  Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth BID:PRN Disp 
#*60 Tablet Refills:*0 
6.  Albuterol Inhaler 1 PUFF IH Q6H:PRN SOB  
7.  Fluticasone-Salmeterol Diskus (100/50) 1 INH IH DAILY  
8.  Alendronate Sodium 70 mg PO QWEEKLY  
9.  Cetirizine 10 mg PO DAILY  
10.  Diazepam 2.5 mg PO QHS:PRN insomnia  
11.  esomeprazole magnesium 40 mg oral BID  
12.  Ranitidine 300 mg PO DAILY  
13.  terbinafine HCl 250 mg oral daily  
14.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hiatal hernia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Call Dr. ___ ___ if you experience:
 -Fevers > 101 or chills
 -Difficult or painful swallowing
 -Nausea, vomiting.
 -Increased shortness of breath

 Pain
 -Take Tylenol on a standing basis to reduce opiod use.
 -Take stool softners while taking narcotics
 -No driving while taking narcotics

 Activity
 -Shower daily. Wash incision with mild soap and water, rinse, 
pat dry
 -No tub bathing, swimming or hot tubs until incision healed
 -No lotions or creams to incision
 -Walk ___ times a day for ___ minutes increase to a Goal of 
30 minutes daily

 Diet:
 Full liquid diet for ___ days. Increase to soft solids as 
tolerates

 Eat small frequent meals. Sit in chair for all meals. Remain 
sitting up for ___ minutes after all meals

 NO CARBONATED DRINKS
 
Followup Instructions:
___